US03992398
Into a solution of isopropylhydrazine hydrochloride in a mixture of 3 partsof water and one part of alcohol there is introduced, at a temperature of 10° C, an equivalent amount of cyanogen chloride, with a pH-range of 6.5 to 7 being maintained by addition of sodium hydroxide solution and checking with a pH-meter. The duration of the reaction is 1 hour. During the reaction, there precipitates a yellow oil from which there is obtained, by extraction with ether, the crude 1-isopropyl-cyano-hydrazine in a yield of 90% as oil. The crude product obtained in this way can be used directly for the further reaction with phosgene to give 1-isopropyl-3-hydroxy-1,2,4-triazole.

reactant | isopropylhydrazine hydrochloride | Cl.C(C)(C)NN
reactant | cyanogen chloride | N#CCl | CClN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-isopropyl-cyano-hydrazine | C(C)(C)N(N)C#N | C4H9N3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | water | O | H2O
product | 1-isopropyl-3-hydroxy-1,2,4-triazole | yield of 90% | C(C)(C)N1N=C(N=C1)O | C5H9N3O
